US04151179
(b) 3-Acetyl-4-hydroxyphenethyl alcohol
A solution of 2-(3-acetyl-4-hydroxyphenyl)ethyl acetate (35.7 g) in ethanol (400 ml), and sodium bicarbonate (42 g) in water (200 mls) was refluxed for 81/2 hours. The ethanol was removed on a `Rotavapor` and the residue was extracted with ether (3x). The combined ethereal extracts were washed with water, sodium bicarbonate solution, saturated brine solution, dried over anhydrous magnesium sulphate, and evaporated to yield a red oil (31.3 g). The oil was recrystallised from hexane and ether (4:1) to yield the product as a pale yellow crystalline solid (18.3 g). The mother liquors were concentrated and an additional batch of product was obtained as a pale yellow crystalline solid (9.3 g).

reactant | 2-(3-acetyl-4-hydroxyphenyl)ethyl acetate | 35.7 g | C(C)(=O)OCCC1=CC(=C(C=C1)O)C(C)=O | C12H14O4
reactant | sodium bicarbonate | 42 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 200 mls | O | H2O
product | 3-Acetyl-4-hydroxyphenethyl alcohol | 31.3 g | C(C)(=O)C=1C=C(CCO)C=CC1O | C10H12O3
